US07157464B2
Synthesis of 2,2,2-Trifluoro-N-(5-methyl-1H-pyrazol-3-yl)-acetamide
To a solution of 3-amino-5-methylpyrazole (0.97 g, 10 mmol) and Et3N (1.39 mL, 10 mmol) in dioxane (25 mL) was added Trifluoroacetic anhydride (TFAA) (1.39 mL, 10 mmol) drop-wise at 10° C. The reaction mixture was stirred at that temperature for 1 h then slowly warmed to room temperature through next 1 h. Once the reaction is over dioxane was evaporated, residue resolved in water (20 mL), washed with methylene chloride (30 mL). Organic layer was then dried with Na2SO4 and concentrated to give the title compound as white solid.

reactant | 3-amino-5-methylpyrazole | 10 mmol, 0.97 g | NC1=NNC(=C1)C | C4H7N3
reactant | Et3N | 10 mmol, 1.39 mL | CCN(CC)CC | C6H15N
reactant | Trifluoroacetic anhydride | 10 mmol, 1.39 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 2,2,2-Trifluoro-N-(5-methyl-1H-pyrazol-3-yl)-acetamide | FC(C(=O)NC1=NNC(=C1)C)(F)F | C6H6F3N3O
